US08809371B2
Pyrrolidin-2-one (129 mg), cesium carbonate (412 mg), Pd2(dba)3 (116 mg), and Xantphos (146 mg) were added to a 1,4-dioxane (10 ml) solution containing 2-chloro-5-nitropyridine (200 mg) in a nitrogen atmosphere, followed by stirring at 100° C. for 5 hour. Water was added to the reaction solution, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (n-hexane:ethyl acetate=4:1 to 2:1), and a light red solid of 1-(5-nitropyridin-2-yl)pyrrolidin-2-one (261 mg) was thus obtained.

reactant | Pyrrolidin-2-one | 129 mg | N1C(CCC1)=O | C4H7NO
reactant | cesium carbonate | 412 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | 146 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 2-chloro-5-nitropyridine | 200 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
catalyst | Pd2(dba)3 | 116 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1-(5-nitropyridin-2-yl)pyrrolidin-2-one | 261 mg | [N+](=O)([O-])C=1C=CC(=NC1)N1C(CCC1)=O | C9H9N3O3
